US05990142
22E Ethyl 8-[(E)-2-[4-[4-(4-fluorophenyl)butoxy]phenyl]-ethen-1-yl]-4-oxo-4H-1-benzopyran-2-carboxylate
Following the process described in example 1 (point A), starting from 3'-[(E)-2-[4-[4-(4-fluorophenyl)butoxy]phenyl]ethen-1-yl]-2'-hydroxy-acetophenone and diethyl oxalate, the title compound was prepared, which was purified by chromatography through a silica gel column, eluting with petroleum ether:chloroform, 8:2 (65% yield).

reactant | 3'-[(E)-2-[4-[4-(4-fluorophenyl)butoxy]phenyl]ethen-1-yl]-2'-hydroxy-acetophenone | FC1=CC=C(C=C1)CCCCOC1=CC=C(C=C1)/C=C/C=1C(=C(C=CC1)C(C)=O)O | C26H25FO3
reactant | diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
product | Ethyl 8-[(E)-2-[4-[4-(4-fluorophenyl)butoxy]phenyl]-ethen-1-yl]-4-oxo-4H-1-benzopyran-2-carboxylate | 65% yield | FC1=CC=C(C=C1)CCCCOC1=CC=C(C=C1)/C=C/C1=CC=CC=2C(C=C(OC21)C(=O)OCC)=O | C30H27FO5
